US08648099B2
A 50 mL four-necked flask was charged with sodium hypochlorite solution (8.44 g, 7.00 mL, 15.5 mmol, Eq: 4) and the solution was cooled to −10° C. Maintaining this temperature, ammonium hydroxide 25% NH3 (949 mg, 1.05 ml, 13.9 mmol, Eq: 3.6) and ammonium chloride 1M (11.6 mL, 11.6 mmol, Eq: 3) were added simultaneously. After 5 min, 2-(piperidin-4-yl)ethanol (500 mg, 3.87 mmol, Eq: 1.00, CAN 622-26-4) in 2 mL THF and sodium hydroxide (2.58 g, 1.94 mL, 19.3 mmol, Eq: 5) were added simultaneously at the same temperature as before, and the reaction allowed to proceed for another 2 hours at rt. The mixture was diluted with H2O and extracted with EtOAc (2×10 mL). The aqueous layer was concentrated in vacuo and the residue taken up in CH2Cl2, dried over Na2SO4, filtered and concentrated in vacuo. Thereby, 340 mg of 2-(1-mino-piperidin-4-yl)-ethanol were obtained as white semi-solid; MS (EI) 145.2 (M+H)+.

reactant | sodium hypochlorite | 15.5 mmol, 7.00 mL, 8.44 g | Cl[O-].[Na+]
reactant | ammonium hydroxide | 13.9 mmol, 1.05 ml, 949 mg | [OH-].[NH4+]
reactant | ammonium chloride | 11.6 mmol, 1M, 11.6 mL | [Cl-].[NH4+]
reactant | 2-(piperidin-4-yl)ethanol | 3.87 mmol, 500 mg | N1CCC(CC1)CCO | C7H15NO
reactant | sodium hydroxide | 19.3 mmol, 1.94 mL, 2.58 g | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 2-(1-mino-piperidin-4-yl)-ethanol | 340 mg | N=C1NCCC(C1)CCO | C7H14N2O
